* FILE: MMI_RPTRF.sp


* SPICE netlist for "MMI_RPTRF" (generated by MMI_SUE4.2.16)

*.SUBCKT MMI_RPTRF in out 
M_0 out in vdd vdd p W='24.64*1u' L=lp_min ad='areap(24.64,sdd)' 
+ as='areap(24.64,sdd)' pd='perip(24.64,sdd)' ps='perip(24.64,sdd)'
M_1_1 out in gnd gnd n W='12.32*1u' L=ln_min ad='arean(12.32,sdd)' 
+ as='arean(12.32,sdd)' pd='perin(12.32,sdd)' ps='perin(12.32,sdd)'
*.ENDS	$ MMI_RPTRF

