* FILE: MMI_mmatch4A.sp


* SPICE netlist for "MMI_mmatch4A" (generated by MMI_SUE4.2.16)

*.SUBCKT MMI_mmatch4A in0 in1 in2 in3 mm_out 
M_0 net_2 in1 net_5 vdd p W='1.2*1u' L=lp_min ad='areap(1.2,sdd)' 
+ as='areap(1.2,sdd)' pd='perip(1.2,sdd)' ps='perip(1.2,sdd)'
M_1_1 net_2 in0 net_1 gnd n W='0.385*1u' L=ln_min ad='arean(0.385,sdd)' 
+ as='arean(0.385,sdd)' pd='perin(0.385,sdd)' ps='perin(0.385,sdd)'
M_2_1 net_1 in1 gnd gnd n W='0.385*1u' L=ln_min ad='arean(0.385,sdd)' 
+ as='arean(0.385,sdd)' pd='perin(0.385,sdd)' ps='perin(0.385,sdd)'
M_3_1 net_1 in2 gnd gnd n W='0.385*1u' L=ln_min ad='arean(0.385,sdd)' 
+ as='arean(0.385,sdd)' pd='perin(0.385,sdd)' ps='perin(0.385,sdd)'
M_4_1 net_5 in2 net_7 vdd p W='1.2*1u' L=lp_min ad='areap(1.2,sdd)' 
+ as='areap(1.2,sdd)' pd='perip(1.2,sdd)' ps='perip(1.2,sdd)'
M_5_1 net_7 in3 vdd vdd p W='1.2*1u' L=lp_min ad='areap(1.2,sdd)' 
+ as='areap(1.2,sdd)' pd='perip(1.2,sdd)' ps='perip(1.2,sdd)'
M_6_1 net_2 in0 net_5 vdd p W='1.2*1u' L=lp_min ad='areap(1.2,sdd)' 
+ as='areap(1.2,sdd)' pd='perip(1.2,sdd)' ps='perip(1.2,sdd)'
M_7_1 net_2 in2 net_4 vdd p W='1.2*1u' L=lp_min ad='areap(1.2,sdd)' 
+ as='areap(1.2,sdd)' pd='perip(1.2,sdd)' ps='perip(1.2,sdd)'
M_8_1 net_4 in1 net_8 vdd p W='1.2*1u' L=lp_min ad='areap(1.2,sdd)' 
+ as='areap(1.2,sdd)' pd='perip(1.2,sdd)' ps='perip(1.2,sdd)'
M_9_1 net_8 in0 vdd vdd p W='1.2*1u' L=lp_min ad='areap(1.2,sdd)' 
+ as='areap(1.2,sdd)' pd='perip(1.2,sdd)' ps='perip(1.2,sdd)'
M_10_1 net_2 in3 net_4 vdd p W='1.2*1u' L=lp_min ad='areap(1.2,sdd)' 
+ as='areap(1.2,sdd)' pd='perip(1.2,sdd)' ps='perip(1.2,sdd)'
M_11_1 net_2 in1 net_3 gnd n W='0.385*1u' L=ln_min ad='arean(0.385,sdd)' 
+ as='arean(0.385,sdd)' pd='perin(0.385,sdd)' ps='perin(0.385,sdd)'
M_12_1 net_3 in2 gnd gnd n W='0.385*1u' L=ln_min ad='arean(0.385,sdd)' 
+ as='arean(0.385,sdd)' pd='perin(0.385,sdd)' ps='perin(0.385,sdd)'
M_13_1 net_3 in3 gnd gnd n W='0.385*1u' L=ln_min ad='arean(0.385,sdd)' 
+ as='arean(0.385,sdd)' pd='perin(0.385,sdd)' ps='perin(0.385,sdd)'
M_14_1 net_2 in3 net_6 gnd n W='0.385*1u' L=ln_min ad='arean(0.385,sdd)' 
+ as='arean(0.385,sdd)' pd='perin(0.385,sdd)' ps='perin(0.385,sdd)'
M_15_1 net_6 in2 gnd gnd n W='0.385*1u' L=ln_min ad='arean(0.385,sdd)' 
+ as='arean(0.385,sdd)' pd='perin(0.385,sdd)' ps='perin(0.385,sdd)'
M_16_1 net_6 in0 gnd gnd n W='0.385*1u' L=ln_min ad='arean(0.385,sdd)' 
+ as='arean(0.385,sdd)' pd='perin(0.385,sdd)' ps='perin(0.385,sdd)'
M_17_1 mm_out net_2 gnd gnd n W='0.385*1u' L=ln_min ad='arean(0.385,sdd)' 
+ as='arean(0.385,sdd)' pd='perin(0.385,sdd)' ps='perin(0.385,sdd)'
M_18_1 mm_out net_2 vdd vdd p W='0.77*1u' L=lp_min ad='areap(0.77,sdd)' 
+ as='areap(0.77,sdd)' pd='perip(0.77,sdd)' ps='perip(0.77,sdd)'
*.ENDS	$ MMI_mmatch4A

